US05137892
Step 4: 3,3-dimethoxypyrrolidine
The 2.21 g of 3,3-dimethoxy-pyrrolidine benzyl carbamate, from step 3, dissolved in 100 mL of methanol, 2.21 g of Pd/C (wet) was added, and placed under 4 atm of hydrogen for 20 hours. The catalyst was filtered off using a 0.45 micro millipore filter and the solvent was evaporated to afford the title compound.

reactant | 3,3-dimethoxy-pyrrolidine benzyl carbamate | 2.21 g | C(C1=CC=CC=C1)NC(O)=O.COC1(CNCC1)OC
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd/C | 2.21 g | [Pd] | Pd
product | 3,3-dimethoxypyrrolidine | COC1(CNCC1)OC | C6H13NO2
